US05985900
To a stirred solution of N-[4-(4-fluorophenoxy)benzenesulfonyl]--S--[2-(methoxycarbonyl)ethyl]-D-penicillamine allyl ester (0.100 g., 0.19 mmol) in DMSO(1 ml.) at room temperature was added sodium thiomethoxide (0.053 g., 0.762 mmol). After 3.5 hours, the reaction was then acidified with 1N aqueous sodium bisulfate to pH=4 and extracted with ethyl acetate. The organic phase was washed with brine, dried over MgSO4, and concentrated. The residue was purified on silica eluting with 20% ethyl ethyl acetate in hexane to give N-[4-(4-fluorophenoxy)benzenesulfonyl]-D-penicillamine allyl ester as a colorless oil in 75% yield. 1H--NMR (δ, CDCl3) δ 1.43 (s, 6H), 1.93 (s,1H), 3.82-3.86 (d, 1H, J=11 Hz),4.25-4.38 (m, 2H), 5.23-5.29 (m, 2H), 5.49-5.53 (d, 1H, J=11 Hz), 5.63-5.78 (m,1H), 6.96-7.79 (m, 8H)

reactant | N-[4-(4-fluorophenoxy)benzenesulfonyl]--S--[2-(methoxycarbonyl)ethyl]-D-penicillamine allyl ester | 0.19 mmol, 0.100 g | C(C=C)OC([C@H](NS(=O)(=O)C1=CC=C(C=C1)OC1=CC=C(C=C1)F)C(C)(C)SCCC(=O)OC)=O | C24H28FNO7S2
reactant | sodium thiomethoxide | 0.762 mmol, 0.053 g | C[S-].[Na+]
reactant | sodium bisulfate | 1N | S([O-])(O)(=O)=O.[Na+]
solvent | DMSO | 1 ml | CS(=O)C | C2H6OS
product | N-[4-(4-fluorophenoxy)benzenesulfonyl]-D-penicillamine allyl ester | 75% yield | C(C=C)OC([C@H](NS(=O)(=O)C1=CC=C(C=C1)OC1=CC=C(C=C1)F)C(C)(C)S)=O | C20H22FNO5S2
